US04762942
2-Hexyl-4-tetradecylphenol
A mixture of 31.04 g of 1-(2-hydroxy-5-tetradecylphenyl)-1-hexanone, 8.4 g of 5% palladium on carbon, 5 ml of concentrated hydrochloric acid, 95 ml of water and 100 ml of glacial acetic acid was hydrogenated in a Parr apparatus for 16 hours, then filtered and the solvents removed. The residue was chromatographed on silica gel, eluting with hexane:ethyl acetate (40:1), giving 12.3 g of the desired compound.

reactant | 1-(2-hydroxy-5-tetradecylphenyl)-1-hexanone | 31.04 g | OC1=C(C=C(C=C1)CCCCCCCCCCCCCC)C(CCCCC)=O | C26H44O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 95 ml | O | H2O
catalyst | palladium on carbon | 8.4 g | [Pd] | Pd
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Hexyl-4-tetradecylphenol | 12.3 g | C(CCCCC)C1=C(C=CC(=C1)CCCCCCCCCCCCCC)O | C26H46O
